US04758552
Preparation of Boc-anthranilic acid (molecular weight: 237.27)
The pH value of a solution containing 4 g (30 mmoles) of anthranilic acid in 20 ml of DMF is adjusted to 8 by adding TEA. After adding 9 g of tertiary-butyloxy carbonate, the reaction mixture is stirred at room temperature overnight. The solvent is evaporated and the thick oily residue is dissolved in 50 ml of ethyl acetate. The organic phase is washed 3 times with 20 ml of ice-cold 0.01N sulfuric acid each, then 3 times with 20 ml of water each. The ethyl acetate solution is dried over anhydrous sodium sulfate and evaporated under reduced pressure. The thick oily residue becomes crystalline when kept in a refrigerator. The aimed product is obtained in a yield of 5.7 g (80%), m.p.: 91°-93° C.

reactant | anthranilic acid | 30 mmoles, 4 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | tertiary-butyloxy carbonate | 9 g | C(OOC(C)(C)C)([O-])=O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Boc-anthranilic acid | C(=O)(OC(C)(C)C)NC=1C(C(=O)O)=CC=CC1 | C12H15NO4
